US06649608B2
4-{N-[3-(Imidazol-1-yl)propyl]carbamoyl}nitrobenzene
A solution of 4-nitrobenzoyl chloride (18.5 g, 0.1 mol) in DCM (200 ml) was added dropwise to a stirred solution of 1-(3-aminopropyl)imidazole (14.0 g, 0.112 mol) and triethylamine (15 ml, 0.107 mol) in DCM (200 ml) at 0° C. The mixture was stirred at 0° C. for 1 hour, and the solid which had separated out was collected by filtration and washed with water (100 ml) and acetone (100 ml) to give the product (21.6 g, 79%). NMR: 1.9-2.0 (m, 2H), 3.2-3.3 (m, 2H), 4.0 (t, 2H), 6.85 (s, 1H), 7.2 (s, 1H), 7.65 (s, 1H), 8.05 (d, 2H), 8.3 (d, 2H), 8.8 (br s, 1H).

reactant | 4-nitrobenzoyl chloride | 0.1 mol, 18.5 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1-(3-aminopropyl)imidazole | 0.112 mol, 14.0 g | NCCCN1C=NC=C1 | C6H11N3
reactant | triethylamine | 0.107 mol, 15 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-{N-[3-(Imidazol-1-yl)propyl]carbamoyl}nitrobenzene | 21.6 g, 79% | N1(C=NC=C1)CCCNC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H14N4O3
